US05280032
3.5 g of (S)-4-benzyl-2-hydroxymethylmorpholine was dissolved in 5 ml of ethanol. To the solution was added 5 ml of a 5.9 N dry hydrogen chloride-ethanol solution with ice cooling. The resulting mixture was stirred for 10 minutes at the same temperature. Thereto was added a mixture of 500 mg of 5% palladium-carbon and 10 ml of methanol. The resulting mixture was subjected to hydrogenation for 3 hours at 40° C. After the completion of the reaction, palladium-carbon was removed by filtration. The solvent was removed by distillation under reduced pressure to obtain a yellow oily product. To the oily product were added 20 ml of dry methylene chloride and 4.7 ml of triethylamine. The resulting mixture was stirred at room temperature for 30 minutes. Thereto was dropwise added a solution of 4.7 g of trityl chloride dissolved in 10 ml of methylene chloride in 20 minutes, with ice cooling. The mixture was stirred at room temperature for 3 hours and added to 50 ml of ice water. The organic layer was separated and 20 ml of water was added thereto. The resulting mixture was adjusted to pH 12 with a 1N aqueous sodium hydroxide solution. The organic layer was separated and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain a yellow oily product. The oily product was mixed with 10 ml of diisopropyl ether. The resulting crystals were collected by filtration to obtain 2.7 g of (S)-4-trityl-2-hydroxymethylmorpholine.

reactant | (S)-4-benzyl-2-hydroxymethylmorpholine | 3.5 g | C(C1=CC=CC=C1)N1C[C@H](OCC1)CO | C12H17NO2
reactant | hydrogen chloride ethanol | 5.9 N | Cl.C(C)O
reactant | trityl chloride | 4.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | diisopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium-carbon | 500 mg | [C].[Pd]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 4.7 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 ml | CO | CH4O
product | (S)-4-trityl-2-hydroxymethylmorpholine | 2.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C[C@H](OCC1)CO | C24H25NO2
